US06713499B2
To a stirred solution of 99 mg (0.49 mmol) 2-bromo-isonicotinic acid in 3 ml THF were added 195 mg (0.51 mmol) HATU and 0.11 ml (0.98 mmol) N-methylmorpholine and stirring continued at 30° C. for 5 h. 75 mg (0.24 mmol) 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine was then added and stirring continued at 40° C. for 16 h. The reaction mixture was then diluted with ethyl acetate and washed sequentially with 0.5 N hydrochloric acid, saturated sodium bicarbonate solution and brine. The organic phase was dried over sodium sulfate and concentrated in vactio. Flash chromatography (methanol/dichloromethane) followed by trituration in ether/hexane afforded 17 mg (14%) 2-bromo-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino)-benzothiazol-2-yl}-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 493 (M{81Br}+H+, 100), 491 (M{79Br}+H+, 95).

reactant | 2-bromo-isonicotinic acid | 0.49 mmol, 99 mg | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | 0.51 mmol, 195 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.98 mmol, 0.11 ml | CN1CCOCC1 | C5H11NO
reactant | 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine | 0.24 mmol, 75 mg | COC1=CC=C(C2=C1N=C(S2)N)N(CC2CCOCC2)C | C15H21N3O2S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino)-benzothiazol-2-yl}-isonicotinamide | 17 mg, 14% | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(CC3CCOCC3)C)OC)C=CN1 | C21H23BrN4O3S
